US07569589B2
To a mixture of 2,6-dibromopyridine (6 g, 25.33 mmol) in anhydrous THF (150 mL) under N2 @−78° C. was added n-BuLi (10.13 mL, 2.5M) dropwise. The mixture was stirred @ −78° C. for 15 min and 3-cyanobenzaldehyde (3.32 g, 25.33 mmol) in anhydrous THF (10 mL, rinsed with 5 mL) was added. The mixture was stirred for 20 min @ −78° C. then warmed to 0° C. and stirred for 1 hr. The mixture was quenched with saturated aqueous NH4Cl, and the resulting mixture was extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4), filtered, and concentrated. The residue was purified by silica gel chromatography (15-30% EtOAc in Hexanes) to give 3-[(6-bromopyridin-2-yl)(hydroxy)methyl]benzonitrile. LRMS m/z (M+H) Calcd.: 289.0, found 289.1.

reactant | 2,6-dibromopyridine | 25.33 mmol, 6 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | 2.5M, 10.13 mL | [Li]CCCC
reactant | 3-cyanobenzaldehyde | 25.33 mmol, 3.32 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[(6-bromopyridin-2-yl)(hydroxy)methyl]benzonitrile | BrC1=CC=CC(=N1)C(C=1C=C(C#N)C=CC1)O | C13H9BrN2O
